US07112582B2
Step 1: 4-p-Nitrobenzyloxycarbonyl-piperazin-2one
The 48.7% solution of p-nitrobenzyloxycarbonyl chloride in 1,4-Dioxane (10.7 mL) was added to the dichloromethane (110 mL) solution of piperazin-2-one (2.21 g) and diisopropylethylamine (4.6 mL) at 0° C. and stirred for 0.5 h at 0° C. Water (300 mL) was added to the reaction mixture, and extracted with dichloromethane (3×100 mL). The organic layer was dried (MgSO4) and filtered. The filtrate was concentrated under reduce pressure. The residue was applied to silica gel column chromatography, eluted with CHCl3-methanol (30:1), and the title compound was obtained as white solid (7.1 g, quant.).

reactant | p-nitrobenzyloxycarbonyl chloride | [N+](=O)([O-])C1=CC=C(COC(=O)Cl)C=C1 | C8H6ClNO4
reactant | dichloromethane | 110 mL | ClCCl | CH2Cl2
reactant | piperazin-2-one | 2.21 g | N1C(CNCC1)=O | C4H8N2O
reactant | diisopropylethylamine | 4.6 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,4-Dioxane | 10.7 mL | O1CCOCC1 | C4H8O2
solvent | Water | 300 mL | O | H2O
product | 4-p-Nitrobenzyloxycarbonyl-piperazin-2one | [N+](=O)([O-])C1=CC=C(COC(=O)N2CC(NCC2)=O)C=C1 | C12H13N3O5
